US07034018B2
2-{2-[(3-Bromo-phenyl)-pyrrolidin-1-yl-methyl]-pyrrol-1-ylmethyl}-pyridine
The preparation was carried out in accordance with general synthesis instructions 4 from 4-pyrrol-1-yl-methyl-pyridine and 1-(3-bromo-benzylidene)-pyrrolidinium chloride, which had been prepared in accordance with example 4 from 3-bromobenzaldehyde and pyrrolidine.

reactant | 4-pyrrol-1-yl-methyl-pyridine | N1(C=CC=C1)C1=CC(=NC=C1)C | C10H10N2
reactant | 1-(3-bromo-benzylidene)-pyrrolidinium chloride | [Cl-].BrC=1C=C(C=[N+]2CCCC2)C=CC1
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-{2-[(3-Bromo-phenyl)-pyrrolidin-1-yl-methyl]-pyrrol-1-ylmethyl}-pyridine | BrC=1C=C(C=CC1)C(C=1N(C=CC1)CC1=NC=CC=C1)N1CCCC1 | C21H22BrN3
